US04071684
Preparation of 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine monohydrochloride
In addition to the compounds listed above, compounds which do not fit the general formula of Table 1 were prepared using the process of the invention. The compounds include: 3-(1-(1,3-benzodioxol-5-yl)-2-phenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine monohydrochloride; 1,4,5,6-tetrahydro-3-(2-naphthalenylmethyl)-1,2,4-triazine monohydrochloride; and 3-(2-(4-chlorophenyl)-1-((4-methylphenyl)sulfonyl)ethyl)-1,4,5,6-tetrahydro-1,2,4-triazine.

reactant | 3-(1-(1,3-benzodioxol-5-yl)-2-phenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine monohydrochloride | Cl.O1COC2=C1C=CC(=C2)C(CC2=CC=CC=C2)C2=NNCCN2
reactant | 1,4,5,6-tetrahydro-3-(2-naphthalenylmethyl)-1,2,4-triazine monohydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)CC1=NNCCN1
reactant | 3-(2-(4-chlorophenyl)-1-((4-methylphenyl)sulfonyl)ethyl)-1,4,5,6-tetrahydro-1,2,4-triazine | ClC1=CC=C(C=C1)CC(S(=O)(=O)C1=CC=C(C=C1)C)C1=NNCCN1 | C18H20ClN3O2S
product | 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine monohydrochloride | Cl.C1(=CC=CC=C1)C(CC1=CC=CC=C1)C1=NNCCN1 | InChI=1S/C17H19N3.ClH/c1-3-7-14(8-4-1)13-16(15-9-5-2-6-10-15)17-18-11-12-19-20-17;/h1-10,16,19H,11-13H2,(H,18,20);1H
